US08580777B2
A. (R)-3-(4-Allylphenyl)-2-tert-butoxycarbonylaminopropionic acid
A solution of 2.03 g (6.36 mmol) of methyl (R)-3-(4-allylphenyl)-2-tert-butoxycarbonylaminopropionate (prepared as in Synlett, 2005, 12, 1877-1880) in 20 ml of dioxane/water (1:1, v/v) and 0.30 g (12.71 mmol) of lithium hydroxide was stirred at RT for 2 h and then neutralized with 1N hydrochloric acid. The reaction mixture was extracted with ethyl acetate, and the organic phase was dried over Na2SO4, filtered and concentrated. 1.90 g of the title compound were obtained.

reactant | methyl (R)-3-(4-allylphenyl)-2-tert-butoxycarbonylaminopropionate | 6.36 mmol, 2.03 g | C(C=C)C1=CC=C(C=C1)C[C@H](C(=O)OC)NC(=O)OC(C)(C)C | C18H25NO4
reactant | lithium hydroxide | 12.71 mmol, 0.30 g | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane water | 20 ml | O1CCOCC1.O
product | (R)-3-(4-Allylphenyl)-2-tert-butoxycarbonylaminopropionic acid | 1.90 g | C(C=C)C1=CC=C(C=C1)C[C@H](C(=O)O)NC(=O)OC(C)(C)C | C17H23NO4
